US05665718
13.44 g (78.5 mmol) of chloroacetic anhydride were added to a solution of 18.92 g (68.48 mmol) of (E)-and/or (Z)-3-(amino-hydroxyimino-methyl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f]-[1,4]diazepin-6-one in 250 ml of N,N-dimethylformamide and the mixture was stirred at room temperature for 1.5 hours. Subsequently, it was heated to 105° for 2 hours. The solution was evaporated and the residue was partitioned between 2N sodium hydroxide solution and methylene chloride. The aqueous phase was back-washed with methylene chloride and the organic phases were dried with magnesium sulfate, filtered and evaporated. The residue obtained was crystallized from methylene chloride/ethanol. There were obtained 18 g (78%) of 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-6-one as a beige powder of m.p. 221°-223°.

reactant | chloroacetic anhydride | 78.5 mmol, 13.44 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | (Z)-3-(amino-hydroxyimino-methyl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f]-[1,4]diazepin-6-one | N\C(\C=1N=CN2C1CN(C(C1=C2C=CS1)=O)C)=N/O | C11H11N5O2S
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-6-one | 18 g, 78% | ClCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CS1)=O)C | C13H10ClN5O2S
